US06316500B1
Propargyl 3-Chloro-4-Hydroxybenzoate
Using the above procedure, 3-chloro-4-hydroxybenzoic acid (0.0826 mole) and sodium hydroxide (0.0826 mole) were dissolved in 50% isopropyl alcohol (200 ml). Propargyl bromide (0.0826 mole) was added and the solution was heated to reflux for 6 hours. The solution was then cooled and the isopropyl alcohol was removed under vacuum. The residue was taken up in methylene chloride (200 ml), washed with water (200 ml), saturated sodium bicarbonate, saline and dried over magnesium sulfate. Removal of the solvent yielded crude product, which was recrystallized, from CCI4 to give the pure product. (64.3% yield) m.p. 144-145° C.

reactant | 3-chloro-4-hydroxybenzoic acid | 0.0826 mole | ClC=1C=C(C(=O)O)C=CC1O | C7H5ClO3
reactant | sodium hydroxide | 0.0826 mole | [OH-].[Na+]
reactant | Propargyl bromide | 0.0826 mole | C(C#C)Br | C3H3Br
solvent | isopropyl alcohol | 200 ml | C(C)(C)O | C3H8O
product | Propargyl 3-Chloro-4-Hydroxybenzoate | 64.3% yield | ClC=1C=C(C(=O)OCC#C)C=CC1O | C10H7ClO3
